Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.13812594203
[C:1]#[C:2][C:4]([H:5])[C:6]([H:7])=[C:8][H:9].[C:3]>>[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9],-6.50132283382
[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])[H:7]>>[C:1]#[C:2].[C:3](=[O:4])=[C:5]([H:6])[H:7],2.21304217379
[O:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.17901026934
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9],-0.0925974504294
[C:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[C:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8],-2.43143854745
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.49657594275
[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[O:7][H:8]>>[C:1]#[C:2].[C:3]([C:4]#[C:5][H:6])[O:7][H:8],6.67220159161
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([C:4]#[C:7][C:8]([H:9])([H:10])[H:11])[H:15].[H:5][C:6]=[C:12]([H:13])[H:14],1.73129559729
[H:10].[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.49495345248
[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.58500980591
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:12]/[C:13]([H:14])([H:15])[H:16],1.85855606366
[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]#[C:3].[O:4][H:5],6.835922041290001
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][H:5],-1.01404339926
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],2.10746708325
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7](=[O:8])([H:9])[H:10],0.383796245739
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:7].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:8][H:9],4.85022766184
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.9949429763
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.987493637119999
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-4.832843120340001
[C:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.987467936509
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.17381576203
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:7][C:8][H:9]>>[C:5]([H:6])[O:7][C:8][H:9].[O:1]=[C:2]([H:3])[H:4],1.54707144
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:8][H:9].[H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-4.853883097230001
[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.07809953146
[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7]>>[H:1][C:2][O:3][C:4]=[C:5]=[O:6].[H:7],3.1731690436
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])=[C:7][O:8][C:9]1([H:10])[H:11],-1.45571352574
[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],3.57948118553
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],1.60824904893
